US07939524B2
c) (1,1-Dioxo-1,4-dihydro-1λ6-pyrido[4,3-e][1,2,4]thiadiazin-3-yl)-acetic Acid Methyl Ester
4-amino-pyridine-3-sulfonic acid amide (0.25 g, 1.44 mmol) was suspended in malonic acid dimethyl ester (5 mL, 43.75 mmol). The flask was purged with nitrogen and the mixture was stirred at 180° C. for 60 min. Upon cooling, the mixture was diluted with ethyl acetate (5 mL) causing immediate precipitation of an undesired side product. The solid was removed by vacuum filtration and rinsed with ethyl acetate (2 mL). The filtrate was passed through a plug of silica gel, eluting with ethyl acetate followed by 5% methanol in ethyl acetate. The fractions containing the 5% methanol in ethyl acetate were combined and concentrated in vacuo to afford the desired product, (1,1-dioxo-1,4-dihydro-1λ6-pyrido[4,3-e][1,2,4]thiadiazin-3-yl)-acetic acid methyl ester (0.135 g, 0.529 mmol, 37%) as a yellow oil. LC-MS (ESI) calculated for C9H9N3O4S 255.03, found 256.0 [M+H+].

reactant | 4-amino-pyridine-3-sulfonic acid amide | 1.44 mmol, 0.25 g | NC1=C(C=NC=C1)S(=O)(=O)N | C5H7N3O2S
reactant | malonic acid dimethyl ester | 43.75 mmol, 5 mL | COC(CC(=O)OC)=O | C5H8O4
product | (1,1-dioxo-1,4-dihydro-1λ6-pyrido[4,3-e][1,2,4]thiadiazin-3-yl)-acetic acid methyl ester | 0.529 mmol, 0.135 g, 37% | COC(CC1=NS(C2=C(N1)C=CN=C2)(=O)=O)=O | C9H9N3O4S
